US07018988B2
(3EZ,5S)-5-(3,4-dihydro-2-quinazolinyl)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 11, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and 2-(aminomethyl)aniline, the title compound was obtained in 77% purity by HPLC. MS(ESI+): m/z=439.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | 2-(aminomethyl)aniline | NCC1=C(N)C=CC=C1 | C7H10N2
product | (3EZ,5S)-5-(3,4-dihydro-2-quinazolinyl)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C1=NC2=CC=CC=C2CN1)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C27H26N4O2
